US07858643B2
To a stirred solution of 3-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-iodo-pyridin-2-ylamine (100 mg, 0.23 mmol) and 3-methyl-1H-pyrazole (59 mg, 0.70 mmol) in DMSO (1 mL was added K3PO4 (101 mg, 0.47 mmol), dodecane (0.015 mL, 0.05 mmol), cyclohexanediamine (0.009 mL, 0.07 mmol) and copper iodide (CuI) (14 mg, 0.07 mmol). The solution was bubbled with nitrogen for 5 minutes, then radiated with microwave at 150° C. for 2 hours, LCMS checked that the reaction was completed, the mixture was purified by prep-HPLC to leave 3-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(3-methyl-pyrazol-1-yl)-pyridin-2-ylamine (30 mg), yield 34.2%

reactant | 3-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-iodo-pyridin-2-ylamine | 0.23 mmol, 100 mg | ClC1=C(C(=CC=C1F)Cl)C(C)OC=1C(=NC=C(C1)I)N | C13H10Cl2FIN2O
reactant | 3-methyl-1H-pyrazole | 0.70 mmol, 59 mg | CC1=NNC=C1 | C4H6N2
reactant | K3PO4 | 0.47 mmol, 101 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | dodecane | 0.05 mmol, 0.015 mL | CCCCCCCCCCCC | C12H26
reactant | cyclohexanediamine | 0.07 mmol, 0.009 mL | C1(CCCCC1)(N)N | C6H14N2
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | copper iodide | 0.07 mmol, 14 mg | [Cu](I)I
product | 3-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(3-methyl-pyrazol-1-yl)-pyridin-2-ylamine | 30 mg, yield 34.2% | ClC1=C(C(=CC=C1F)Cl)C(C)OC=1C(=NC=C(C1)N1N=C(C=C1)C)N | C17H15Cl2FN4O
